US09315475B2
Step 9: 4-Fluoro-β-(4-fluorophenyl)-N-(5-fluoro-4-{2-[(2R,5S)-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholin-2-yl]ethyl}pyridin-3-yl)-L-phenylalaninamide trihydrochloride
4M HCl (3.54 mL, 14.17 mmol) in dioxane was added to a solution of tert-Butyl (2R,5S)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholine-4-carboxylate (1.19 g, 1.42 mmol) in Dioxane (14 mL) at ambient temperature and the reaction stirred for 4 hours. The solvent was removed in vacuo and ether was added to the residue. The title compound was filtered off as a white solid (1.00 g, 1.34 mmol, 94% yield), MS (ESI): m/z=640.40 (MH+); 100% pure by LCMS.

reactant | HCl | 14.17 mmol, 4M, 3.54 mL | Cl | ClH
reactant | tert-Butyl (2R,5S)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholine-4-carboxylate | 1.42 mmol, 1.19 g | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC=1C=NC=C(C1CC[C@@H]1CN([C@@H](CO1)COC(NCC(F)(F)F)=O)C(=O)OC(C)(C)C)F | C40H47F6N5O8
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | Dioxane | 14 mL | O1CCOCC1 | C4H8O2
product | 4-Fluoro-β-(4-fluorophenyl)-N-(5-fluoro-4-{2-[(2R,5S)-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholin-2-yl]ethyl}pyridin-3-yl)-L-phenylalaninamide trihydrochloride | Cl.Cl.Cl.FC1=CC=C(C([C@H](N)C(=O)NC=2C=NC=C(C2CC[C@@H]2CN[C@@H](CO2)COC(NCC(F)(F)F)=O)F)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C30H31F6N5O4.3ClH/c31-19-5-1-17(2-6-19)26(18-3-7-20(32)8-4-18)27(37)28(42)41-25-13-38-12-24(33)23(25)10-9-22-11-39-21(14-44-22)15-45-29(43)40-16-30(34,35)36;;;/h1-8,12-13,21-22,26-27,39H,9-11,14-16,37H2,(H,40,43)(H,41,42);3*1H/t21-,22+,27-;;;/m0.../s1
